US07220759B2
By the reaction in the same manner as in Example 1a, using N,N-diethyl-2,3-dimethylbenzamide (4.07 g) and (S)-1-(2-cyanoethyl)-3-hydroxypyrrolidine (1.6 g), (S)-3-[2-(3-hydroxypyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one (0.228 g) was obtained.

reactant | N,N-diethyl-2,3-dimethylbenzamide | 4.07 g | C(C)N(C(C1=C(C(=CC=C1)C)C)=O)CC | C13H19NO
reactant | (S)-1-(2-cyanoethyl)-3-hydroxypyrrolidine | 1.6 g | C(#N)CCN1C[C@H](CC1)O | C7H12N2O
product | (S)-3-[2-(3-hydroxypyrrolidin-1-yl)ethyl]-5-methyl-2H-isoquinolin-1-one | 0.228 g | O[C@@H]1CN(CC1)CCC=1NC(C2=CC=CC(=C2C1)C)=O | C16H20N2O2
